US07625909B2
Step 1. Synthesis of N-[1-(diphenylmethyl)-3-azetidinyl]methanesulfonamide
A solution of 1-(diphenylmethyl)-3-azetidinamine (synthesized according to the methods of Arimoto et. al., J. of Antibiotics 39 (9), 1243-56, 1986) (197 mg, 0.83 mmol) in dichloromethane (10 mL) was treated with excess triethylamine at 0° C. followed by methanesulfonyl chloride (71 μL, 0.91 mmol). The reaction was stirred for 30 minutes and then concentrated and purified on silica gel (0-10% methanol/dichloromethane) to provide 185 mg of the desired product as a white solid. LC/MS: M+H 317.19 at 0.31 minutes, Method D.

reactant | 1-(diphenylmethyl)-3-azetidinamine | C1(=CC=CC=C1)C(N1CC(C1)N)C1=CC=CC=C1 | C16H18N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.91 mmol, 71 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[1-(diphenylmethyl)-3-azetidinyl]methanesulfonamide | 185 mg | C1(=CC=CC=C1)C(N1CC(C1)NS(=O)(=O)C)C1=CC=CC=C1 | C17H20N2O2S
